US05693628
50 g of 4-bromobenzaldehyde and 30 ml of o-triethyl formate are agitated for 5 hours at room temperature in 60 ml of methanol and 0.8 ml of thionyl chloride. After that, another 0.2 ml of thionyl chloride are added. The batch is poured into aqueous bicarbonate solution after 30 minutes and extracted with chloroform, washed with aqueous bicarbonate solution and water, dried above sodium sulfate, and concentrated by evaporation under reduced pressure. 68 g of 4-bromobenzaldehyde dimethyl ketal are obtained in the form of colourless oil.

reactant | 4-bromobenzaldehyde | 50 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | bicarbonate | C([O-])(O)=O
reactant | methanol | 60 ml | CO | CH4O
solvent | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-bromobenzaldehyde dimethyl ketal | 68 g | COC(C1=CC=C(C=C1)Br)OC | C9H11BrO2
